US07465730B2
Utilizing the procedure outlined in Example 85, ethyl 2-acetyl-4-oxopentanoate (6.37 g, 34.2 mmol) was dissolved in 20 mL of EtOH. 2,6-dibromo-4-aminophenol (11.6g, 34.2mmol) were reacted to afford ethyl 1-(3,5-dibromo-4-hydroxyphenyl)-2,5-dimethyl-1H-pyrrole-3-carboxylate was taken on without further purification. MS (ESI) 418 (M+H)+.

reactant | ethyl 2-acetyl-4-oxopentanoate | 34.2 mmol, 6.37 g | C(C)(=O)C(C(=O)OCC)CC(C)=O | C9H14O4
reactant | 2,6-dibromo-4-aminophenol | 34.2mmol, 11.6g | BrC1=C(C(=CC(=C1)N)Br)O | C6H5Br2NO
solvent | EtOH | 20 mL | CCO | C2H6O
product | ethyl 1-(3,5-dibromo-4-hydroxyphenyl)-2,5-dimethyl-1H-pyrrole-3-carboxylate | BrC=1C=C(C=C(C1O)Br)N1C(=C(C=C1C)C(=O)OCC)C | C15H15Br2NO3
